US06921763B2
A solution of trans 3-(4-amino-3-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.200 g, 0.00046 mol) in N,N-dimethylformamide (10 mL) was reacted with 1-hydroxy-7-azabenzotriazole (0.068 g, 0.00050 mol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.132 g, 0.00069 mol), D-Boc-proline (0.108 g, 0.00050 mol) and N,N-diisopropylethylamine (0.184 g, 0.00142 mol) at ambient temperature for 24 hours. The solvent was removed in vacuo and the residue was partitioned between dichloromethane (10 mL) and a 5% aqueous citric acid solution (20 mL). The layers were separated and the aqueous layer was extracted with dichloromethane (2×10 mL). The combined organic phases were washed with saturated aqueous sodium bicarbonate (15 mL) and dried over magnesium sulfate. The solvent was removed in vacuo and the residue was stirred in 20% trifluoroacetic acid in dichloromethane for 6 hours at ambient temperature. The solvent was removed in vacuo and the residue was purified by preparative RP-HPLC (Rainin C18, 8 mm, 300 A, 25 cm; 5% isocratic for five minutes, then 5%-40% acetonitrile-0.1M ammonium acetate over 20 min, 21 ml/min). The acetonitrile was removed in vacuo and the aqueous mixture was lyopholyzed to give trans N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-(2R)tetrahydro-1H-2-pyrrolecarboxamide acetate (0.096 g, 0.00016 mol) as a white solid.

reactant | trans 3-(4-amino-3-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00046 mol, 0.200 g | NC1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C)OC | C23H32N8O
reactant | 1-hydroxy-7-azabenzotriazole | 0.00050 mol, 0.068 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.00069 mol, 0.132 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 0.00142 mol, 0.184 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | trans N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-(2R)tetrahydro-1H-2-pyrrolecarboxamide acetate | 0.00016 mol, 0.096 g | C(C)(=O)O.NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)[C@@H]2NCCC2)OC)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | InChI=1S/C28H39N9O2.C2H4O2/c1-35-12-14-36(15-13-35)19-6-8-20(9-7-19)37-27-24(26(29)31-17-32-27)25(34-37)18-5-10-21(23(16-18)39-2)33-28(38)22-4-3-11-30-22;1-2(3)4/h5,10,16-17,19-20,22,30H,3-4,6-9,11-15H2,1-2H3,(H,33,38)(H2,29,31,32);1H3,(H,3,4)/t19-,20-,22-;/m1./s1
